US06403830B2
The product of Example-1D, S-[2-[[(1,1-dimethylethoxy)carbonyl]amino]ethyl]-2-methyl-L-cysteine trifluoroacetate, (5.5 g, 14.0 mmol) was dissolved in 1 N HCl (100 mL) and stirred at room temperature under nitrogen overnight. The solution was removed by freeze-drying to give the title S-(2-aminoethyl)-2-methyl-L-cysteine hydrochloride, 1H NMR (DMSO-d6/D2O) δ1.43 (s, 3H), 2.72 (m, 2H), 2.85 (d, 1 H), 2.95 (t, 2H), 3.07 (d, 1H). m/z [M+H+] 179.

reactant | S-[2-[[(1,1-dimethylethoxy)carbonyl]amino]ethyl]-2-methyl-L-cysteine trifluoroacetate | 14.0 mmol, 5.5 g | FC(C(=O)O)(F)F.CC(C)(OC(=O)NCCSC[C@](N)(C(=O)O)C)C
reactant | HCl | 1 N, 100 mL | Cl | ClH
product | S-(2-aminoethyl)-2-methyl-L-cysteine hydrochloride | Cl.NCCSC[C@](N)(C(=O)O)C | InChI=1S/C6H14N2O2S.ClH/c1-6(8,5(9)10)4-11-3-2-7;/h2-4,7-8H2,1H3,(H,9,10);1H/t6-;/m0./s1
